US09163020B2
1-((6-(dimethylamino)-5-methylpyrimidin-4-yl)methyl)-N-(2-fluoroethyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxamide
See FIG. 23(d). 1-((6-(dimethylamino)-5-methylpyrimidin-4-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid (75 mg, 0.23 mmol) was taken in a thermal reactor. DCM (5 mL) was added to get a suspension. Triethyl amine (0.064 mL, 0.46 mmol) was added followed by the addition of 1-Propanephosphonic acid cyclic anhydride (0.274 mL, 0.46 mmol). 2-fluoroethanamine hydrochloride (22.94 mg, 0.23 mmol) was added and stirred at RT for ON. After the completion of the reaction, reaction mixture was concentrated and dissolved in DCM:MeOH. This crude compound was subjected for reverse phase purification. The final compound obtained 1-((6-(dimethylamino)-5-methylpyrimidin-4-yl)methyl)-N-(2-fluoroethyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxamide (12.00 mg, 14.05%) as a white solid. ES+MS m/z: 371 (M+). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.27 (s, 3 H ) 2.40 (s, 3 H ) 2.95 (s, 6 H ) 3.66 (d, J=5.46 Hz, 1 H ) 3.75 (d, J=5.27 Hz, 1 H ) 4.49 (t, J=4.99 Hz, 1 H ) 4.65 (t, J=4.99 Hz, 1 H ) 5.54 (s, 2 H ) 7.75 (s, 1 H ) 8.13 (s, 1 H ) 8.22 (s, 1 H ) 8.34 (s, 1 H ) 8.88 (t, J=5.84 Hz, 1 H).

reactant | 1-((6-(dimethylamino)-5-methylpyrimidin-4-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid | 0.23 mmol, 75 mg | CN(C1=C(C(=NC=N1)CN1C=C(C2=NC=C(C=C21)C)C(=O)O)C)C | C17H19N5O2
reactant | Triethyl amine | 0.46 mmol, 0.064 mL | C(C)N(CC)CC | C6H15N
reactant | 1-Propanephosphonic acid cyclic anhydride | 0.46 mmol, 0.274 mL | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | 2-fluoroethanamine hydrochloride | 0.23 mmol, 22.94 mg | Cl.FCCN
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-((6-(dimethylamino)-5-methylpyrimidin-4-yl)methyl)-N-(2-fluoroethyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxamide | 12.00 mg, 14.05% | CN(C1=C(C(=NC=N1)CN1C=C(C2=NC=C(C=C21)C)C(=O)NCCF)C)C | C19H23FN6O
